US08383643B2
Ethyl [5-(5-bromo-1,3,4-thiadiazol-2-yl)-2H-tetrazol-2-yl]acetate
5-Bromo-1,3,4-thiadiazole-2-carbonitrile To a solution of 5-bromo-1,3,4-thiadiazole-2-carboxamide and Et3N (2.3 equiv) in THF (0.5 M) at 0° C. was added TFAA (1.1 equiv). The mixture was then warmed to room temperature and stirred for 30 min, then the solvent was evaporated in vacuo. The resulting residue was diluted with water. The resulting precipitate was collected, washed with water, and dried to give the title compound.

reactant | 5-Bromo-1,3,4-thiadiazole-2-carbonitrile | BrC1=NN=C(S1)C#N | C3BrN3S
reactant | 5-bromo-1,3,4-thiadiazole-2-carboxamide | BrC1=NN=C(S1)C(=O)N | C3H2BrN3OS
reactant | Et3N | 2.3 equiv | CCN(CC)CC | C6H15N
reactant | TFAA | 1.1 equiv | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
solvent | THF | 0.5 M | C1CCOC1 | C4H8O
product | Ethyl [5-(5-bromo-1,3,4-thiadiazol-2-yl)-2H-tetrazol-2-yl]acetate | BrC1=NN=C(S1)C=1N=NN(N1)CC(=O)OCC | C7H7BrN6O2S
